US04160099
n-DODECANOYLOXYMETHYLQUINUCLIDINIUM CHLORIDE (17)
2.49 g (0.01 mol) chloromethyl n-dodecanoate and 1.12 g (0.01 mol) quinuclidine were mixed and allowed to react together at room temperature for 48 hrs. Anhydrous ether was added to the mixture and the mixture was triturated in anhydrous ether overnite. The solid was isolated by filtration under a nitrogen atmosphere and thoroughly washed with anhydrous ether. After drying in vacuo over calcium sulfate at room temperature, 2.1 g (0.006 mol), 17 was obtained as a white solid, mp 170°-172°; ir (KBr) 2960, 2930, 1765, 1470, 1120, 1090, 860 and 830 cm-1 ; pmr (CDCl3) δ 5.8 (s, 2H), 3.9 (t, 6H), 2.5 (t, 2H), 2.2 (m, 7H), 1.3 (bs, 18H) and 0.9 (t, 3H) ppm.

reactant | chloromethyl n-dodecanoate | 0.01 mol, 2.49 g | C(CCCCCCCCCCC)(=O)OCCl | C13H25ClO2
reactant | quinuclidine | 0.01 mol, 1.12 g | N12CCC(CC1)CC2 | C7H13N
reactant | KBr | [K+].[Br-]
solvent | ether | CCOCC | C4H10O
product | n-DODECANOYLOXYMETHYLQUINUCLIDINIUM CHLORIDE | [Cl-].C(CCCCCCCCCCC)(=O)OC[N+]12CCC(CC1)CC2 | InChI=1S/C20H38NO2.ClH/c1-2-3-4-5-6-7-8-9-10-11-20(22)23-18-21-15-12-19(13-16-21)14-17-21;/h19H,2-18H2,1H3;1H/q+1;/p-1
